Banc de test pour la Capa variable sur la base de la thèse de Marc KODRNJA

.INCLUDE capa.cir

Valim	4 0	DC 12
Vex	6 5	DC 0 AC 0.01 0
Vd	7 8	DC 0.0
xcapa 4 6 5 7 8 0 capa
.END
